US05610141
c) (S,S)-2,9-Diaminodecanedioic acid.2HCl
Dimethyl (S,S)-2,9-diaminodecanedioate (1.40g, 5.38 mmol) was dissolved in 6N HCl (40 ml, 240 mmol), and stirred under N2 at 60° C. for 12 hours. The solvent was evaporated, the residue dissolved in EtOH and crystallized by the addition of diethyl ester. The crystals were filtered off.

reactant | Dimethyl (S,S)-2,9-diaminodecanedioate | 5.38 mmol, 1.40g | N[C@H](C(=O)OC)CCCCCC[C@@H](C(=O)OC)N | C12H24N2O4
reactant | HCl | 240 mmol, 6N, 40 ml | Cl | ClH
product | (S,S)-2,9-Diaminodecanedioic acid | N[C@H](C(=O)O)CCCCCC[C@@H](C(=O)O)N | C10H20N2O4
